US07626021B2
2,2-Dimethyl-propionic acid 3-(3-chloro-benzyl)-5-{3-dimethylcarbamoyl-4-[(morpholine-4-carbonyl)-amino]-phenyl}-pyrazolo[3,4-b]pyridin-1-ylmethyl ester (180 mg, 0.284 mmol) was dissolved in tetrahydrofuran (10 ml). 1 M sodium hydroxide in methanol (3.0 ml) was added to the mixture, and the reaction was stirred for 2 hours at room temperature. The reaction was quenched with sodium bicarbonate solution and extracted with dichloromethane. The organic layer was dried, filtered, and concentrated. The crude material was purified by mass-triggered reverse-phase HPLC to give 18 mg (12%) of morpholine-4-carboxylic acid {4-[3-(3-chloro-benzyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-2-dimethylcarbamoyl-phenyl}-amide. 1H-NMR (250 MHz, DMSO-d6) δ 13.48 (s, 1H), 8.82 (d, J=2.0 Hz, 1H), 8.77 (s, 1H), 8.46 (d, J=2.0 Hz, 1H), 7.79-7.71 (m, 2H), 7.64 (s, 1H), 7.47 (s, 1H), 7.34-7.20 (m, 3H), 4.35 (s, 2H), 3.66-3.56 (m, 4H), 3.43-3.35 (m, 4H), 2.98 (s, 6H); MS: m/z 519.2 (M+H+).

reactant | 2,2-Dimethyl-propionic acid 3-(3-chloro-benzyl)-5-{3-dimethylcarbamoyl-4-[(morpholine-4-carbonyl)-amino]-phenyl}-pyrazolo[3,4-b]pyridin-1-ylmethyl ester | 0.284 mmol, 180 mg | ClC=1C=C(CC2=NN(C3=NC=C(C=C32)C3=CC(=C(C=C3)NC(=O)N3CCOCC3)C(N(C)C)=O)COC(C(C)(C)C)=O)C=CC1 | C33H37ClN6O5
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 3.0 ml | CO | CH4O
product | morpholine-4-carboxylic acid {4-[3-(3-chloro-benzyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-2-dimethylcarbamoyl-phenyl}-amide | 18 mg, 12% | ClC=1C=C(CC2=NNC3=NC=C(C=C32)C3=CC(=C(C=C3)NC(=O)N3CCOCC3)C(N(C)C)=O)C=CC1 | C27H27ClN6O3
